US07060844B2
[3-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid
To a solution of oxindole (0.400 g, 3.0 mmol) in DME (8.0 mL) was added 9.0 mL LHMDS (1.0 M in THF). After stirring at room temperature for 10 min, phthalide-3-acetic acid (0.519 g, 2.7 mmol) was added as a solid in one portion. The mixture was rapidly stirred for 3.5 h and then quenched into 4% HCl aqueous solution (100 mL) to give a yellow solid. The solid was filtered, rinsed with H2O, MeOH and then 6:4/hexane:EtOAc to afford (0.105 g, 13%) of product as a yellow solid.

reactant | oxindole | 3.0 mmol, 0.400 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | LHMDS | 1.0 M, 9.0 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | phthalide-3-acetic acid | 2.7 mmol, 0.519 g | C1(=O)OC(C2=CC=CC=C12)CC(=O)O | C10H8O4
solvent | DME | 8.0 mL | COCCOC | C4H10O2
product | [3-(2-Oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-acetic acid | 0.105 g, 13% | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CC(=O)O | C18H13NO4
